US07122558B2
Preparation of 2-Cyclohexyl-2-hydroxy-2-thien-2-ylacetic acid methyl ester
98.6 ml (0.197 mol) of a 2M solution of Cyclohexylmagnesium chloride in diethyl ether, were added to a solution of 27.97 g (0.164 mol) of 2-oxo-2-thien-2-ylacetic acid methyl ester dissolved in 370 ml of THF, at −78° C. under a N2 atmosphere. The mixture was stirred at this temperature for 10 minutes, and then warmed to room temperature. After 1 h, the reaction mixture was treated with a saturated solution of ammonium chloride and extracted three times with ethyl acetate. The organic phases were combined, washed with water, and dried over MgSO4. After removal of the solvent, the oil obtained was purified by column chromatography (silica gel) using hexane/AcOEt 90:10 as eluent. The yield was 16.2 g (39.5%) of a pure product, whose structure was confirmed by 1H-NMR.

reactant | Cyclohexylmagnesium chloride | C1(CCCCC1)[Mg]Cl
reactant | 2-oxo-2-thien-2-ylacetic acid methyl ester | 0.164 mol, 27.97 g | COC(C(C=1SC=CC1)=O)=O | C7H6O3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 370 ml | C1CCOC1 | C4H8O
product | 2-Cyclohexyl-2-hydroxy-2-thien-2-ylacetic acid methyl ester | COC(C(C=1SC=CC1)(O)C1CCCCC1)=O | C13H18O3S
